US08791142B2
Step 1) tert-butyl 4-[(5-cyano-3-methylpyridin-2-yl)amino]butanoate
A mixture of 6-fluoro-5-methylnicotinonitrile (10.0 g, 73.4 mmol), tert-butyl 4-aminobutanoate (Bachem F-3755, 17.4 g, 88.1 mmol) and TEA (25.6 mL, 183.6 mmol) was prepared in DMSO (100 mL) under nitrogen, and the heated at 150° C. for 4 hours. The reaction mixture was cooled to 100° C., and then water was added (100 mL) drop wise. The resulting mixture was stirred at RT for 2 hours, and then the precipitate was filtered off, washed with water and dried under reduced pressure to afford the title compound as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 8.27 (1H, s), 7.53 (1H, s), 6.95 (1H, m), 3.40 (2H, t), 2.23 (2H, t), 2.03 (3H, s), 1.75 (2H, m), 1.37 (9H, s).

reactant | 6-fluoro-5-methylnicotinonitrile | 73.4 mmol, 10.0 g | FC1=NC=C(C#N)C=C1C | C7H5FN2
reactant | tert-butyl 4-aminobutanoate | 88.1 mmol, 17.4 g | NCCCC(=O)OC(C)(C)C | C8H17NO2
reactant | water | O | H2O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | tert-butyl 4-[(5-cyano-3-methylpyridin-2-yl)amino]butanoate | C(#N)C=1C=C(C(=NC1)NCCCC(=O)OC(C)(C)C)C | C15H21N3O2
